US07834030B2
To a solution of 530 mg of 2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazole-5-carbaldehyde in 43 ml tetrahydrofuran at 0° C. was slowly added 2.2 ml of a molar solution of ethylmagnesium bromide in tert-butyl methyl ether. The reaction mixture was stirred at 0° C. for one hour then poured onto an aqueous solution of KH2PO4 and extracted with dichloromethane. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give 545 mg 1-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-yl]-propan-1-ol which was used without further purification.

reactant | 2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazole-5-carbaldehyde | 530 mg | FC(C1=CC=C(C=C1)C=1SC(=C(N1)CN1CCC(CC1)C(F)(F)F)C=O)(F)F | C18H16F6N2OS
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 43 ml | O1CCCC1 | C4H8O
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | 1-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-yl]-propan-1-ol | 545 mg | FC(C1=CC=C(C=C1)C=1SC(=C(N1)CN1CCC(CC1)C(F)(F)F)C(CC)O)(F)F | C20H22F6N2OS
